US07351725B2
N-(4-Nonylbenzyl)-3-aminopropylphosphonic acid
3-Aminopropylphosphonic acid (0.060 g, 0.436 mmol) and tetrabutylammonium hydroxide (1.0M in methanol, 0.44 mL, 0.43 mmol) in methanol (3 mL) were heated at 50° C. for 15 min until all of the solids had dissolved. 4-(Nonyl)benzyliodide (0.100 g, 0.291 mmol) and DIEA (0.112 g, 0.872 mmol) were added and stirring was continued for 12 h at 50° C. The reaction was made acidic (pH˜5) by the addition of concentrated hydrochloric acid then directly purified using LC-3 to give the title compound (0.020 g): 1H NMR (500 MHz, CD3OD) δ 7.39 (d, J=8.0 Hz, 2H), 7.29 (d, J=8.0 Hz, 2H), 4.15 (s, 2H), 3.14 (t, J=7.6 Hz, 2H), 2.64 (t, J=7.7 Hz, 2H), 2.00 (m, 2H), 1.79 (td, J=5.3, 18.5 Hz, 2H), 1.61 (m, 2H), 1.24-1.36 (m, 14H), 0.89 (t, J=7.0 Hz, 3H); ESI-MS 356.2 (M+H).

reactant | 3-Aminopropylphosphonic acid | 0.436 mmol, 0.060 g | NCCCP(O)(O)=O | C3H10NO3P
reactant | tetrabutylammonium hydroxide | 0.43 mmol, 1.0M, 0.44 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4-(Nonyl)benzyliodide | 0.291 mmol, 0.100 g | C(CCCCCCCC)C1=CC=C(CI)C=C1 | C16H25I
reactant | DIEA | 0.872 mmol, 0.112 g | CCN(C(C)C)C(C)C | C8H19N
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | N-(4-Nonylbenzyl)-3-aminopropylphosphonic acid | 0.020 g | C(CCCCCCCC)C1=CC=C(CNCCCP(O)(O)=O)C=C1 | C19H34NO3P
